US05646140
2-[2,4-dioxo-5-phenyl-3-(phenylhydrazono)-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenylacetamide
N-isopropyl-N-phenyl-2-(2-phenylaminophenylamino)-acetamide (10 g) and 2-(phenyl-hydrazono)-propanedioyl dichloride (6.83 g), were each dissolved in THF (100 ml) and added simultaneously, with stirring, to a flask containing THF (100 ml) at 0° C., under nitrogen. The reaction mixture was allowed to warm to R.T. and stirred four hours. The THF was evaporated in vacuo and the residue was dissolved in ethyl acetate (200 ml). The ethyl acetate solution was washed with 10% aqueous sodium carbonate (2×200 ml) and water (2×200 ml), dried (Na2SO4), and concentrated in vacuo. The residual foam was treated with diethyl ether (50 ml) to precipitate the title compound as a bright yellow solid (7.5 g). The mother liquor was concentrated to a tan foam (2.5 g). 1H-NMR (300 MHz, CDCl3): d 11.4 and 10.85 (s, 1H), 7.6-6.8 (m, 19 H), 5.05 (m, 1H), 4.4 (m, 2H), 1.05 (m, 6H); MS (FAB)=532 (MH+); TLC, Rf=0.19 (hexane:ethyl acetate, 2:1).

reactant | N-isopropyl-N-phenyl-2-(2-phenylaminophenylamino)-acetamide | 10 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H25N3O
reactant | 2-(phenyl-hydrazono)-propanedioyl dichloride | 6.83 g | C1(=CC=CC=C1)NN=C(C(=O)Cl)C(=O)Cl | C9H6Cl2N2O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-[2,4-dioxo-5-phenyl-3-(phenylhydrazono)-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenylacetamide | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)=NNC2=CC=CC=C2 | C32H29N5O3
